US08183240B2
A solution of 4-cyano-3-(2,4-dichlorophenyl)-5-[2-(fluoromethyl)morpholin-4-yl]thiophene-2-carboxamide (38 mg, 0.000092 mol) in 1,1-dimethoxy-N,N-dimethylmethanamine (2.0 mL, 0.015 mol) was irradiated in microwave at 160° C. for 40 min. The solvent was removed and the residue was dissolved in AcOH (1.6 mL, 0.028 mol). Hydrazine monohydrate (0.3 mL, 0.006 mol) was added and the mixture was irradiated in microwave at 120° C. for 10 min. The reaction mixture was concentrated and the residue was treated with water, the solid was collected, dried to afford 4-(2,4-dichlorophenyl)-2-(2-(fluoromethyl)morpholino)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile (23.5 mg, 60%). LCMS: (FA) ES+ 438, ES− 436; 1H NMR (400 MHz, d6-DMSO) δ: 8.01 (s, 1H), 7.57 (d, 1H), 7.39 (dd, 1H), 7.32 d, 1H), 4.59 (t, 1H), 4.47 (t, 1H), 4.08-4.01 (m, 1H), 4.00-3.81 (m, 5H), 3.32-3.20 (m, 1H), 3.18-3.09 (m, 1H).

reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-[2-(fluoromethyl)morpholin-4-yl]thiophene-2-carboxamide | 0.000092 mol, 38 mg | C(#N)C=1C(=C(SC1N1CC(OCC1)CF)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C17H14Cl2FN3O2S
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 0.015 mol, 2.0 mL | COC(N(C)C)OC | C5H13NO2
reactant | AcOH | 0.028 mol, 1.6 mL | CC(=O)O | C2H4O2
reactant | Hydrazine monohydrate | 0.006 mol, 0.3 mL | O.NN
product | 4-(2,4-dichlorophenyl)-2-(2-(fluoromethyl)morpholino)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile | 23.5 mg, 60% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C1=NN=CN1)N1CC(OCC1)CF)C#N | C18H14Cl2FN5OS
